US08912224B2
Diethyl azodicarboxylate (0.87 ml, 5.53 mmol) was added dropwise at room temperature to a mixture of 2-(3-hydroxy-3-pyrazin-2-yl-propyl)-4-methoxy-phenol (960 mg, 3.69 mmol) and triphenylphosphine (1.45 g, 5.53 mmol) in 20 ml of tetrahydrofuran. After stirring at 20° C. for 1 h, the reaction mixture was concentrated and purified by chromatography on silica gel (ethyl acetate in cyclohexane). 2-(6-Methoxy-chroman-2-yl)-pyrazine was obtained as white crystals (665 mg, 74%).

reactant | Diethyl azodicarboxylate | 5.53 mmol, 0.87 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(3-hydroxy-3-pyrazin-2-yl-propyl)-4-methoxy-phenol | 3.69 mmol, 960 mg | OC(CCC1=C(C=CC(=C1)OC)O)C1=NC=CN=C1 | C14H16N2O3
reactant | triphenylphosphine | 5.53 mmol, 1.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(6-Methoxy-chroman-2-yl)-pyrazine | COC=1C=C2CCC(OC2=CC1)C1=NC=CN=C1 | C14H14N2O2
